US05807863
A mixture of methyl (2,4-dimethyl-6-chloro-5-pyrimidinyl)-acetate (0.5 g, 23 mmol), 1-(2,6-dichlorobenzyl)-1H-pyrazol-3-on (5.80 g, 23 mmol) and potassium carbonate (10.0 g, 70 mmol) in dimethylformamide (30 ml) is heated at +130° C. for 2 hours. Addition of water, extraction with ether and drying gives the intermediate methyl 2-[2,4-dimethyl-6-(1-(2,6-dichlorobenzyl)-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-acetate as a yellow oil.

reactant | methyl (2,4-dimethyl-6-chloro-5-pyrimidinyl)-acetate | 23 mmol, 0.5 g | CC1=NC(=C(C(=N1)C)CC(=O)OC)Cl | C9H11ClN2O2
reactant | 1-(2,6-dichlorobenzyl)-1H-pyrazol-3-on | 23 mmol, 5.80 g | ClC1=C(CN2NC(C=C2)=O)C(=CC=C1)Cl | C10H8Cl2N2O
reactant | potassium carbonate | 70 mmol, 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | methyl 2-[2,4-dimethyl-6-(1-(2,6-dichlorobenzyl)-1H-pyrazol-3-yloxy)-pyrimidin-5-yl]-acetate | CC1=NC(=C(C(=N1)C)CC(=O)OC)OC1=NN(C=C1)CC1=C(C=CC=C1Cl)Cl | C19H18Cl2N4O3
